US04906621
4-(2-hydroxyethyl)-pyridine is oxidized to 4-(2-hydroxyethyl)-pyridine-N-oxide which is in turn treated with trimethylsilyl cyanide to yield 4-(2-hydroxyethyl)-2-cyanopyridine which is converted to ethyl 4-(2-hydroxyethyl)-2-pyridine carboxylate and then hydrogenated to yield ethyl 4-(2-hydroxyethyl)-piperidine-2-carboxylate.

reactant | 4-(2-hydroxyethyl)-pyridine | OCCC1=CC=NC=C1 | C7H9NO
reactant | 4-(2-hydroxyethyl)-pyridine-N-oxide | OCCC1=CC=[N+](C=C1)[O-] | C7H9NO2
reactant | trimethylsilyl cyanide | C[Si](C)(C)C#N | C4H9NSi
product | 4-(2-hydroxyethyl)-2-cyanopyridine | OCCC1=CC(=NC=C1)C#N | C8H8N2O
